US08492568B2
Step 3: (2E)-(6-Chlorospiro[chromene-2,1′-cyclobutan]-4(3H)-ylidene)acetic acid
To a stirred solution of ethyl (2E)-(6-chlorospiro[chromene-2,1′-cyclobutan]-4(3H)-ylidene)acetate (3 g, 10.22 mmol) in ethanol (30 ml) was added 1N sodium hydroxide solution (30 ml) at room temperature. The reaction mixture was stirred at room temperature for 2 h. The residue obtained after the evaporation of the solvent under reduced pressure was acidified with 1N HCl. The desired product was extracted into ethyl acetate (3×50 ml), washed with water (100 ml), brine, dried (Na2SO4) and concentrated to give 2.6 g of the product as a white solid; 1H NMR (300 MHz, CDCl3) δ 1.68-1.78 (m, 5H), 1.86-1.96 (m, 1H), 3.96 (s, 2H), 6.36 (s, 1H), 6.80 (d, J=8.1 Hz, 1H), 7.22 (d, J=9.3 Hz, 1H), 7.51 (s, 1H).

reactant | ethyl (2E)-(6-chlorospiro[chromene-2,1′-cyclobutan]-4(3H)-ylidene)acetate | 10.22 mmol, 3 g | ClC=1C=C2\C(\CC3(CCC3)OC2=CC1)=C\C(=O)OCC | C16H17ClO3
reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (2E)-(6-Chlorospiro[chromene-2,1′-cyclobutan]-4(3H)-ylidene)acetic acid | 2.6 g | ClC=1C=C2\C(\CC3(CCC3)OC2=CC1)=C\C(=O)O | C14H13ClO3
